US08119835B2
In a 1 L flask equipped with a stirrer, a reflux condenser and a dropping funnel, a mixture of 50 g (0.33 M) 1-adamantanol, 68 g (45.5 mL, 0.36 M) 4-bromoanisole and 500 mL of methylene chloride is prepared. The mixture is stirred until dissolved and then 35 g (19 mL, 0.36 M) sulfuric acid added during one hour. The reaction mixture is stirred for 4 hours, 200 mL of water added, stirred for another 10 min, transferred to separating funnel and the organic layer collected, which is neutralized by two portions of 100 mL 10% sodium carbonate solution. Methylene chloride is distilled off completely, the residue dissolved in 300 mL of ethyl acetate, filtered, concentrated to 200 mL and left to crystallize at 0° C. for 16 h. The crystals are filtered off, washed by 50 mL of cold ethyl acetate and dried at 100° C. for one hour. 2-adamantyl-4-bromoanisole, 76 g (72%) with m.p. 140-141° C. is obtained.

reactant | 1-adamantanol | 0.33 M, 50 g | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | 4-bromoanisole | 0.36 M, 45.5 mL, 68 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
reactant | sulfuric acid | 0.36 M, 19 mL, 35 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 200 mL | O | H2O
product | 2-adamantyl-4-bromoanisole | C12C(C3CC(CC(C1)C3)C2)C2=C(C=CC(=C2)Br)OC | C17H21BrO
